US06197729B1
b) 1-benzyloxy-4-(1-hydroxy-2,2,2-trifluoroethyl)benzene
At 20° C., a solution of 15.7 g of sodium borohydride in 100 ml of water was added dropwise with cooling to a solution of 72.5 g of 4′-benzyloxy-2,2,2-trifluoroacetophenone in 900 ml of ethanol. The mixture was stirred under reflux for 3 hours and then concentrated, the residue was taken up in diethyl ether and water and made slightly acidic using dilute hydrochloric acid, and the organic phase was dried and concentrated to give the title product as a colourless oil.

reactant | sodium borohydride | 15.7 g | [BH4-].[Na+]
reactant | 4′-benzyloxy-2,2,2-trifluoroacetophenone | 72.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(F)(F)F)=O | C15H11F3O2
solvent | water | 100 ml | O | H2O
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | 1-benzyloxy-4-(1-hydroxy-2,2,2-trifluoroethyl)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(F)(F)F)O | C15H13F3O2
